US06956047B1
(1-Ethyl-propyl)-[2-methyl-5-nitro-6-(2,4,6-trimethyl-pyridin-3-yloxy)-pyrimidin-4-yl]-amine
A solution of 3-hydroxy-2,4,6-trimethylpyridine (41 mg, 0.3 mmol) in 1 ml of dry THF was treated with 60% sodium hydride in oil (13 mg, 0.3 mmol) at rt. The reaction mixture was cooled to −78° C. and a solution of (6-chloro-2-methyl-5-nitro-pyrimidin-4-yl)-(1-ethyl-propyl)-amine (78 mg, 0.3 mmol) in 1 ml of dry THF was added. The reaction was stirred at −78° C. for 1 hour, quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give 91 mg (84%) of white solid of the title compound, mp 134-135° C. 1H NMR (CDCl3) δ 8.30 (d, 1H), 6.89 (s, 2H), 4.30 (m, 1H), 2.31 (s, 3H), 2.26 (s, 3H), 2.10 (s, 6H), 1.5-1.8 (m, 4H), 0.97 (t, 6H) ppm.

reactant | 3-hydroxy-2,4,6-trimethylpyridine | 0.3 mmol, 41 mg | OC=1C(=NC(=CC1C)C)C | C8H11NO
reactant | sodium hydride | [H-].[Na+]
reactant | (6-chloro-2-methyl-5-nitro-pyrimidin-4-yl)-(1-ethyl-propyl)-amine | 0.3 mmol, 78 mg | ClC1=C(C(=NC(=N1)C)NC(CC)CC)[N+](=O)[O-] | C10H15ClN4O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (1-Ethyl-propyl)-[2-methyl-5-nitro-6-(2,4,6-trimethyl-pyridin-3-yloxy)-pyrimidin-4-yl]-amine | 91 mg, 84% | C(C)C(CC)NC1=NC(=NC(=C1[N+](=O)[O-])OC=1C(=NC(=CC1C)C)C)C | C18H25N5O3
